US08735387B2
(d) 3-[5-(4-Chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-phenylamine
Under argon atmosphere, 13.1 mg of tris(dibenzylideneacetone)dipalladium and 13.3 mg of tri(furan-2-yl)phosphine were added to a solution of 125 mg of 5-(4-chloro-benzyl)-2-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidine, 81.7 mg of copper(I)thiophene-2-carboxylate and 58.7 mg of 3-amino-benzeneboronic acid in 3.5 ml of tetrahydrofuran. The mixture was heated to 80° C. for 2 h in a microwave reactor (CEM Discover). After cooling, 3 ml of water and 3 ml of ethyl acetate were added. The mixture was filtered through a ChemElut cartridge and the cartridge washed with ethyl acetate. The combined filtrates were evaporated in vacuo. Preparative HPLC (method HPLC1) of the residue yielded 44 mg of the title compound in the form of the 3-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-phenylamine trifluoroacetic acid salt.

reactant | tri(furan-2-yl)phosphine | 13.3 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 5-(4-chloro-benzyl)-2-methylsulfanyl-7-propoxy-oxazolo[5,4-d]pyrimidine | 125 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)SC)OCCC)C=C1 | C16H16ClN3O2S
reactant | 3-amino-benzeneboronic acid | 58.7 mg | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium | 13.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | copper(I)thiophene-2-carboxylate | 81.7 mg | S1C(=CC=C1)C(=O)[O-].[Cu+]
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 3-[5-(4-Chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-phenylamine | 44 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C=3C=C(C=CC3)N)OCCC)C=C1 | C21H19ClN4O2
